US04237142
505 g (1.5 moles) of 1-(4-biphenylyloxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol (A form) and 140 g (1.6 moles) of methoxymethyl isocyanate were heated under reflux in 2.5 liters of tetrahydrofuran in the presence of 40 ml of triethylamine and 1 ml of dibutyl-tin dilaurate for 48 hours. Thereafter, the solvent was stripped off in vacuo and 3 liters of petroleum ether were added to the residue. The crystalline precipitate formed was extracted by stirring with 1.5 liters of diisopropyl ether. 528 g (82.5% of theory) of 1-(4-biphenylyloxy)-3,3-dimethyl-2-methoxymethylcarbamoyloxy-1-(1,2,4-triazol-1-yl)-butane (A form) of melting point 95°-98° C. were obtained.

reactant | 1-(4-biphenylyloxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol | 1.5 moles, 505 g | C1(=CC=C(C=C1)OC(C(C(C)(C)C)O)N1N=CN=C1)C1=CC=CC=C1 | C20H23N3O2
reactant | methoxymethyl isocyanate | 1.6 moles, 140 g | COCN=C=O | C3H5NO2
reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
reactant | dibutyl-tin dilaurate | 1 ml | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | tetrahydrofuran | 2.5 liters | O1CCCC1 | C4H8O
product | 1-(4-biphenylyloxy)-3,3-dimethyl-2-methoxymethylcarbamoyloxy-1-(1,2,4-triazol-1-yl)-butane | 528 g, 82.5% | C1(=CC=C(C=C1)OC(C(C(C)(C)C)OC(NCOC)=O)N1N=CN=C1)C1=CC=CC=C1 | C23H28N4O4
